US07371862B2
To a suspension of 3-(4-methylpiperazin-1-yl)benzoic acid (0.58 g, 2 mmol) in dichloromethane (50 mL) and DMF (2 drops), oxalyl chloride (0.9 mL, 10 mmol) was added dropwise at RT. After addition the reaction mixture was heated at 60° C. for 2 h. After concentration and stripping with toluene the crude acyl chloride was dissolved in dry THF (7 mL)/triethylamine (3 mmol) and t-butylglycinate (0.286 mL, 2.1 mmol) was added at RT and the reaction mixture was stirred at RT overnight. After concentration obtained 0.66 g (2 mmol, quant.) of tert-butyl N-[3-(4-methylpiperazin-1-yl)benzoyl]glycinate. The above obtained t-butyl ester (0.1 g, 0.3 mmol) was stirred at RT in dichloromethane (4 mL) and trifluoroacetic acid (3 mL) overnight. The solvents were removed under reduced pressure and the crude material stripped three times with toluene. Obtained the corresponding acid (0.080 g. 96% yield).

reactant | 3-(4-methylpiperazin-1-yl)benzoic acid | 2 mmol, 0.58 g | CN1CCN(CC1)C=1C=C(C(=O)O)C=CC1 | C12H16N2O2
reactant | oxalyl chloride | 10 mmol, 0.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 3 mmol | C(C)N(CC)CC | C6H15N
reactant | t-butylglycinate | 2.1 mmol, 0.286 mL | N[C@@H](C(C)(C)C)C(=O)[O-]
reactant | THF | 7 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | tert-butyl N-[3-(4-methylpiperazin-1-yl)benzoyl]glycinate | 2 mmol, 0.66 g | CN1CCN(CC1)C=1C=C(C(=O)NCC(=O)OC(C)(C)C)C=CC1 | C18H27N3O3
